US06417192B1
1-Bromo-6-(4-chlorobenzyloxy)hexane
Sodium hydride (60%, 0.39 g) was added to a mixture of 6-bromohexanol (1.78 g) and 4-chlorobenzyl bromide (2.02 g) in dry tetrahydrofuran (150 ml). The mixture was stirred at 25° C. for 5 h and poured into 1M hydrochloric acid. Extraction with diethyl ether (3×), and washing the combined extracts with water and brine gave a solution that was dried over magnesium sulfate and evaporated under reduced pressure. The residue so obtained was chromatographed on silica gel using 40-60° C. petroleum ether to 10% diethyl ether in 40-60° C. petroleum ether as eluents. This gave 1-bromo-6-(4-chlorobenzyloxy)hexane (1.7 g). 1H-NMR (CDCl3) δ 1.3-1.55 (4H, m), 1.55-1.7 (2H, m), 1.75-1.95 (2H, m), 3.35-3.55 (4H, m), 4.46 (2H, s) and 7.2-7.4 (4H, m).

reactant | Sodium hydride | 0.39 g | [H-].[Na+]
reactant | 6-bromohexanol | 1.78 g | BrCCCCCCO | C6H13BrO
reactant | 4-chlorobenzyl bromide | 2.02 g | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 1-Bromo-6-(4-chlorobenzyloxy)hexane | BrCCCCCCOCC1=CC=C(C=C1)Cl | C13H18BrClO
